US07326699B2
To a solution of 4.15 g (7.83 mmol) of trans-2-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-isoindole-1,3-dione in 100 ml of dry ethanol are added dropwise at RT and under argon 5.87 g (5.7 ml; 117.5 mmol) of hydrazine monohydrate. After 20 min all the starting material is dissolved, and the reaction is complete after 20 h stirring at RT. The colorless precipitate is filtered off, and washed with ethanol. The filtrate is evaporated to dryness and the crude compound is purified by chromatography on silica gel (dichloromethane:methanol:NH4OHaqu.=90:10:1) to provide trans-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine. Analytical HPLC: tR=7.50 min (Grad 1); ES-MS: m/eo=400; 1H-NMR (CDCl3): 8.30/s (1H); 7.3-7.5/m (6H); 7.20/s (1H); 7.05-7.15/2 peaks (2H); 6.99/m (1H); 5.41/m (1H); 5.14/s (2H); 5.04/broad s (2H); 2.98/d (2H); 2.54-2.69/m (2H); 2.35-2.54/m (3H); 1.73/broad s (2H).

reactant | trans-2-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-isoindole-1,3-dione | 7.83 mmol, 4.15 g | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2C[C@H](C2)CN2C(C1=CC=CC=C1C2=O)=O | C32H27N5O3
reactant | hydrazine monohydrate | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | trans-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | NC[C@@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H25N5O
